US06350762B1
1) Synthesis of 2-cyanoethyl 4-(3-chlorophenyl)-2,6-dimethyl-5-(3,3-diphenylpropylcarbamoyl)-1,4-dihydropyridine-3-carboxylate
219 mg (0.61 mmol) of mono(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate, 138 mg (0.72 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, 201 mg (0.95 mmol) of 3,3-diphenylpropylamine and 20 mg (0.16 mmol) of 4-dimethylaminopyridine were stirred in 10 ml of dichloromethane at room temperature overnight. 2 N hydrochloric acid was added to the reaction mixture. After the extraction with dichloromethane, the organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=1/1) to obtain the title compound.

reactant | mono(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 0.61 mmol, 219 mg | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)[O-])C)C)C(=O)OCCC#N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.72 mmol, 138 mg | Cl.CN(CCCN=C=NCC)C
reactant | 3,3-diphenylpropylamine | 0.95 mmol, 201 mg | C1(=CC=CC=C1)C(CCN)C1=CC=CC=C1 | C15H17N
reactant | hydrochloric acid | 2 N | Cl | ClH
catalyst | 4-dimethylaminopyridine | 0.16 mmol, 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-cyanoethyl 4-(3-chlorophenyl)-2,6-dimethyl-5-(3,3-diphenylpropylcarbamoyl)-1,4-dihydropyridine-3-carboxylate | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(NCCC(C1=CC=CC=C1)C1=CC=CC=C1)=O)C)C)C(=O)OCCC#N | C33H32ClN3O3
